US06734302B2
Cesium carbonate (51.5 g, 158 mmol) was added to a solution of 2-hydroxy-4-methoxybenzonitrile (11.8 g, 79 mmol) in acetone (100 mL). 2-Iodopropane (12.5 mL, 125 mmol) was added. The mixture was heated at reflux for 3 h. Water was added and the mixture was extracted with diethyl ether (4×100 mL). The combined organic extracts were washed with diluted ammonium hydroxide, brine and dried (MgSO4). Evaporation of the solvents and chromatography of the residue over silica gel using 5% diethyl ether in hexanes gave 2-isopropoxy-4-methoxybenzonitrile (13.2 g, 87%).

reactant | Cesium carbonate | 158 mmol, 51.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-hydroxy-4-methoxybenzonitrile | 79 mmol, 11.8 g | OC1=C(C#N)C=CC(=C1)OC | C8H7NO2
reactant | 2-Iodopropane | 125 mmol, 12.5 mL | IC(C)C | C3H7I
reactant | Water | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2-isopropoxy-4-methoxybenzonitrile | 13.2 g, 87% | C(C)(C)OC1=C(C#N)C=CC(=C1)OC | C11H13NO2
